US03970602
Preparation of N-vinyl-2,4-dinitroaniline/N-vinylcarbazole copolymer
1 gram of a copolymer comprising vinylamine/N-vinylcarbazole (25/75 mole percent) is dissolved in 50 milliliters of anhydrous dimethylformamide (DMF). 0.184 grams potassium carbonate is then suspended in this polymer solution and thereafter 1 milliliter of 2,4-dinitrofluorobenzene (Sanger's reagent) added by dropwise addition. Immediately after the addition of Sanger's reagent a yellow color develops within the solution and becomes more intense as the reaction proceeds. The flask containing the solution is then heated over a steam bath for about 11/2 hours at which time the polymer precipitated from the DMF by the addition of water. The precipitate is separated from the solution by filtration and purified by washing with warm dilute aqueous potassium hydroxide solution. This washing procedure is repeated several times until the filtrate is colorless. The polymer is then dried in a vacuum oven at about 70°C. The number average molecular weight of the product is in the range of about 100,000.

reactant | vinylamine N-vinylcarbazole | C(=C)N.C(=C)N1C2=CC=CC=C2C=2C=CC=CC12
reactant | potassium carbonate | 0.184 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dinitrofluorobenzene | 1 milliliter | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | Sanger's reagent | FC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3FN2O4
solvent | dimethylformamide | 50 milliliters | CN(C=O)C | C3H7NO
product | N-vinyl-2,4-dinitroaniline N-vinylcarbazole | C(=C)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-].C(=C)N1C2=CC=CC=C2C=2C=CC=CC12 | InChI=1S/C14H11N.C8H7N3O4/c1-2-15-13-9-5-3-7-11(13)12-8-4-6-10-14(12)15;1-2-9-7-4-3-6(10(12)13)5-8(7)11(14)15/h2-10H,1H2;2-5,9H,1H2
